US04158007
Preparation of α-methyl-3-oxocyclohexane malonic acid diethyl ester
Into a 2 l. 3-neck flask equipped with stirrer, condenser, thermometer, dropping funnel, and under a nitrogen atmosphere is placed 325 ml. of ethanol, and 2.5 g. of freshly cut sodium is added. When solution of the sodium is effected, 200 g. of diethyl methyl malonate is added in 5 minutes, and the mixture is stirred at room temperature for 1 hour. At the end of this period a solution of 100 g. of 2-cyclohexen-1-one in 130 ml. of ethanol is added through the dropping funnel over a period of 1 hour. The ensuing mild exothermic reaction causes the temperature to rise to 42° C. Stirring is continued overnight at room temperature, after which 20 ml. of acetic acid is added, and the mixture is evaporated at reduced pressure. The residual oil is dissolved in 1.31 l. of ether, transferred to a separatory funnel and washed with three 230 ml. portions of water. The ether solution is dried over anhydrous sodium sulfate, filtered, and dried over anhydrous calcium sulfate. The ether is removed at reduced pressure and the residual oil distilled under high vacuum using a 6-inch Vigreux column. After removal of a forerun of 22.5 g., bp 49°-129°/0.14-0.21 mm, α-methyl-3-oxocyclohexane malonic acid diethyl ester distills at 129°-130°/0.2 mm; 211.5 g, 75.4% of theory.

reactant | ethanol | C(C)O | C2H6O
reactant | sodium | [Na] | Na
reactant | diethyl methyl malonate | CCC(C(=O)OC)C(=O)OCC | C8H14O4
reactant | 2-cyclohexen-1-one | C1(C=CCCC1)=O | C6H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | α-methyl-3-oxocyclohexane malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(C1CC(CCC1)=O)C)=O | C14H22O5
